US05126337
Ethyl 8-chloro-6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate
To a solution of 1.50 g of ethyl 6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate in 4.0 ml of chlorosulfonic acid, a trace of iodine was added, and the mixture was bubbled with chlorine gas for 1 hour under ice cooling with stirring. The reaction mixture was poured into ice water and was extracted with chloroform. The extract was washed with aqueous potassium carbonate and water, dried and evaporated. The residue was chromatographed on silica gel using chloroform-methanol (50:1) as an eluent to give 1.61 g of the desired compound, which was recrystallized from a mixture of ethyl acetate and diisopropyl ether. The obtained crystals were consistent with that of Example 1.

reactant | ethyl 6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 1.50 g | FC=1C=C2C(C(=C3N(C2=CC1N1C[C@H](CC1)NC(C(F)(F)F)=O)C(S3)C)C(=O)OCC)=O | C20H19F4N3O4S
reactant | iodine | II | I2
reactant | chlorosulfonic acid | 4.0 ml | ClS(=O)(=O)O | ClHO3S
product | Ethyl 8-chloro-6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylate | 1.61 g | ClC=1C(=C(C=C2C(C(=C3N(C12)C(S3)C)C(=O)OCC)=O)F)N3C[C@H](CC3)NC(C(F)(F)F)=O | C20H18ClF4N3O4S
